US09023847B2
13. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-cyclohex-1-enyl-ethyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 2-(1-cyclohexenyl)ethylamine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 367 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.51 (1H, br. s.) 10.20 (1H, s) 7.94-8.06 (2H, m) 7.76 (1H, d, J=5.37 Hz) 7.44 (1H, d, J=5.37 Hz) 7.30 (1H, dd, J=3.37, 2.49 Hz) 6.77 (1H, d, J=5.37 Hz) 6.43 (1H, dd, J=3.47, 1.90 Hz) 5.37 (1H, br. s.) 3.25-3.37 (2H, m) 2.11 (2H, t, J=7.96 Hz) 1.91 (2H, t, J=5.81 Hz) 1.84 (2H, br. s.) 1.49-1.60 (2H, m) 1.36-1.47 (2H, m)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 2-(1-cyclohexenyl)ethylamine | C1(=CCCCC1)CCN | C8H15N
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-cyclohex-1-enyl-ethyl)-amide | C1(=CCCCC1)CCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C20H22N4OS
